US06642250B2
The procedure of Synthetic Example 1 or partly modified processes thereof were repeated using 2-chloronicotinic acid and 3-aminopyridine to obtain 2-(pyridin-3-ylamino)nicotinaldehyde.

reactant | 2-chloronicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
product | 2-(pyridin-3-ylamino)nicotinaldehyde | N1=CC(=CC=C1)NC1=C(C=O)C=CC=N1 | C11H9N3O
